US05378690
t-Butyl 4-hydroxy-5-morpholino-2-(1-naphthylmethyl)pentanoate
A mixture of 2 g (6.4 mmole) of t-butyl 4,5-epoxy-2-(1-naphthylmethyl)pentanoate (prepared as described in Preparation 11), 0.84 ml of morpholine and 50 ml of methanol was stirred at room temperature for 6 hours and then allowed to stand overnight. The reaction mixture was then concentrated by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel (eluent: a 10 : 90 by volume mixture of methanol and methylene chloride), to afford 1.96 g (76.6%) of the title compound as a pale yellow oil.

reactant | t-butyl 4,5-epoxy-2-(1-naphthylmethyl)pentanoate | 6.4 mmole, 2 g | O1C(CC(C(=O)OC(C)(C)C)CC2=CC=CC3=CC=CC=C23)C1 | C20H24O3
reactant | morpholine | 0.84 ml | N1CCOCC1 | C4H9NO
solvent | methanol | 50 ml | CO | CH4O
product | t-Butyl 4-hydroxy-5-morpholino-2-(1-naphthylmethyl)pentanoate | 1.96 g, 76.6% | OC(CC(C(=O)OC(C)(C)C)CC1=CC=CC2=CC=CC=C12)CN1CCOCC1 | C24H33NO4
